US09029560B2
Preparation of ethyl 3-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)pentanoate (CA48)
Sodium hydride (60% immersion in oil, 0.32 g, 7.9 mmol) was weighed into an oven-dried three neck round bottomed flask. The flask was placed under nitrogen and tetrahydrofuran (44 mL) was added. The stirring mixture was placed in an ice bath. Triethylphosphonoacetate (1.4 mL, 6.9 mmol) was added and the mixture was stirred for 2 hours. Added 1-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)propan-1-one (CA7) (2.4 g, 6.5 mmol) as a solid and warmed to room temperature overnight. The reaction was diluted with water and extracted with ethyl acetate/hexanes (1:1, 2×). The organic layers were dried over sodium sulfate, filtered, and concentrated. To the crude residue was added palladium on carbon (10 wt %, 0.70 g, 0.66 mmol) and dissolved in ethyl acetate (20 mL). The reaction was stirred under hydrogen by balloon overnight. The reaction mixture was filtered through Celite® and concentrated to give the title compound as a brown liquid (2.7 g, 90%): 1H NMR (400 MHz, CDCl3) δ 8.55 (d, J=0.6 Hz, 1H), 8.11 (dd, J=8.1, 6.0 Hz, 2H), 7.83-7.76 (m, 2H), 7.38 (dq, J=7.9, 1.0 Hz, 2H), 7.35-7.27 (m, 2H), 4.24-4.14 (m, 1H), 4.04 (qd, J=7.1, 1.6 Hz, 1H), 3.13-2.99 (m, 1H), 2.74-2.55 (m, 2H), 1.79-1.61 (m, 2H), 1.38-1.24 (m, 3H), 1.06 (dt, J=72.0, 7.2 Hz, 3H); 19F NMR (376 MHz, CDCl3) δ −58.03; ESIMS m/z 434 ([M+H]+).

reactant | Sodium hydride | 7.9 mmol, 0.32 g | [H-].[Na+]
reactant | 1-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)propan-1-one | 6.5 mmol, 2.4 g | FC(OC1=CC=C(C=C1)N1N=C(N=C1)C1=CC=C(C=C1)C(CC)=O)(F)F | C18H14F3N3O2
reactant | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
catalyst | palladium on carbon | 0.66 mmol, 0.70 g | [Pd] | Pd
product | ethyl 3-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)pentanoate | 2.7 g, 90% | FC(OC1=CC=C(C=C1)N1N=C(N=C1)C1=CC=C(C=C1)C(CC(=O)OCC)CC)(F)F | C22H22F3N3O3
